US04596870
1-(4-Nitrophenylsulfenyl)methyl-5-chloropyrimidin-2-one
The title compound was prepared from 5-chloropyrimidin-2-one hydrochloride (10 mmol) and 4-nitro-1-(chloromethylthio)benzene (10 mmol) in a manner similar to that described in Example 2. The reaction time was 31/2 h. Yield: 1.79 g (60%) of the N- and O-isomers in the ratio 5:2. The O-isomer was extracted from the mixture with chloroform, and the remaining N-isomer, the title compound, was recrystallized from MeOH/HOAc; m.p. 165° C. (Found C44.64; H3.03. Calc. for C11H8ClN3O3S: C44.37; H2.71) 1H NMR (DMSO-d6): δ 5.50 (CH2), 7.4-8.3 (Ph), 8.51 (H-4 and H-6, s). IR (KBr): 1660 cm-1 (CO). MS [70 eV, m/z (% rel. int.)]: 297/299 (5/2,M), 143/145 (100/31).

reactant | 5-chloropyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | 4-nitro-1-(chloromethylthio)benzene | 10 mmol | [N+](=O)([O-])C1=CC=C(C=C1)SCCl | C7H6ClNO2S
product | 1-(4-Nitrophenylsulfenyl)methyl-5-chloropyrimidin-2-one | [N+](=O)([O-])C1=CC=C(C=C1)SCN1C(N=CC(=C1)Cl)=O | C11H8ClN3O3S
